US05728835
4-Ureido-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide
4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide (237.2 mg, 0.50 mmol) was dissolved in acetic acid-water (1:2, 1.8 ml) to which was subsequently added dropwise an aqueous solution (0.5 ml) of potassium cyanate (81.1 mg, 0.90 mmol) After 3 hours of stirring at room temperature, the reaction solution was mixed with saturated sodium bicarbonate aqueous solution, alkanized with 10% sodium hydroxide aqueous solution and then extracted with ethyl acetate. The resulting organic layer was washed with water and saturated brine, and dried on anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=10:1) and recrystallized from ethyl acetate-ether to obtain 125.6 mg (48.4%) of the title compound in a colorless powder form.

reactant | 4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 0.50 mmol, 237.2 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | potassium cyanate | 0.90 mmol, 0.5 ml, 81.1 mg | [O-]C#N.[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid water | 1.8 ml | C(C)(=O)O.O
product | 4-Ureido-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 125.6 mg, 48.4% | N(C(=O)N)C1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H31FN4O4
